US08278302B2
Synthesis of 2-Chloro-6-methyl-4-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyridine for Example 188
2-Chloro-N-hydroxy-6-methyl-isonicotinamidine (120 mg) was suspended in trimethylorthoacetate (3 ml) under inert atmosphere and acetic acid (0.3 ml) was added. The mixture was heated to 100° C. and stirred for 2 h. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue partitioned between EtOAc and aqueous solution of NaHCO3. The organic layer was separated, washed with water and brine, dried under Na2SO4, filtered and the solvent was evaporated under reduced pressure. The crude was purified by flash column chromatography (10 g Isolute® silica gel cartridge; gradient elution: hexane/EtOAc from 10/0 to 9/1) affording the title compound (107 mg).

reactant | 2-Chloro-N-hydroxy-6-methyl-isonicotinamidine | 120 mg | ClC=1C=C(C(=N)NO)C=C(N1)C | C7H8ClN3O
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | trimethylorthoacetate | 3 ml | CC(C([O-])([O-])[O-])(C)C
product | 2-Chloro-6-methyl-4-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyridine | 107 mg | ClC1=NC(=CC(=C1)C1=NOC(=N1)C)C | C9H8ClN3O
